US08314097B2
3,5-Difluoro-4-[1-hydroxy-3-(1-trityl-1H-imidazol-4-yl)-propyl]benzonitrile (0.105 g, 0.21 mmol) is dissolved in DMF (5 mL) and cooled down to 0° C. To this is added Et3N (0.043 mL, 0.31 mmol) and methanesulfonyl chloride (0.019 mL, 0.25 mmol). After 2 h, LCMS showed the presence of the intermediate mesylate [MS (ESI) m/z 584.3 (M+H)]. The solution is evaporated to dryness and dissolved in DMF (5 mL), to which is added K2CO3 (0.086 g, 0.62 mmol) and NaI (0.093 g, 0.62 mmol) and the mixture is heated to 90° C. for 0.5 h. The solution is then evaporated, dissolved in MeCN and filtered. The crude residue is purified via flash column chromatography (MeOH/DCM 1:99→MeOH/DCM 1:9) to give 4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3,5-difluorobenzonitrile. MS (ESI) m/z 246.2 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 2.72-2.85 (m, 1 H), 2.93-3.05 (m, 1 H), 3.08-3.21 (m, 2 H), 5.75 (app t, J=7.2 Hz, 1 H), 6.79 (s, 1 H), 7.18-7.41 (m, 3 H).

reactant | 3,5-Difluoro-4-[1-hydroxy-3-(1-trityl-1H-imidazol-4-yl)-propyl]benzonitrile | 0.21 mmol, 0.105 g | FC=1C=C(C#N)C=C(C1C(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)F | C32H25F2N3O
reactant | Et3N | 0.31 mmol, 0.043 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.25 mmol, 0.019 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | K2CO3 | 0.62 mmol, 0.086 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.62 mmol, 0.093 g | [Na+].[I-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3,5-difluorobenzonitrile | C1=C2N(C=N1)C(CC2)C2=C(C=C(C#N)C=C2F)F | C13H9F2N3
